US04925853
A solution of O-benzyl-2,3-dinitrophenol (Description 12) (4.5 g) in ethanol (300 ml) was hydrogenated at atmospheric pressure over Raney nickel (2 g) until uptake of hydrogen ceased. The solution was filtered and evaporated to dryness in vacuo to afford unstable O-benzyl-2,3-diaminophenol which was immediately heated with phenylacetic acid (20 g) at 140°-150° C. for 3 h. The product was heated under reflux with 5N-hydrochloric acid (70 ml) for 3 h and neutralised with 10% sodium carbonate. The mixture was extracted with chloroform, and the organic layer washed with 10% sodium carbonate, water and dried (Na2SO4). The recovered product was chromatographed on Silica Gel 60 (250 g) eluting with ethylacetate-chloroform (1:19) to afford the title compound (1.6 g), m.p. 172°-174° C. (ethanol/ether).

reactant | O-benzyl-2,3-dinitrophenol | 4.5 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H10N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | O-benzyl-2,3-diaminophenol | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)N)N | C13H14N2O
